US06683211B1
A solution of benzoyl peroxide (2.37 g, 9.8 mmol) in CH2Cl2 is added to a vigorously stirred solution of 2-(3-methoxy-4-prop-2-ynyloxy-phenyl)-ethylamine (2.0 g, 9.8 mmol) in 49 ml of a carbonate buffer solution (pH=10.5). The reaction mixture is stirred at room temperature for 6 h. The water layer is extracted twice with CH2Cl2, the organic layers are combined and dried over Na2SO4. After evaporation of the solvent the product is purified by flash chromatography (ethyl acetate:hexane, 1:2) to yield N-benzoyloxy-2-(3-methoxy-4-prop-2-ynyloxy-phenyl)-ethylamine as an oil.

reactant | benzoyl peroxide | 9.8 mmol, 2.37 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | 2-(3-methoxy-4-prop-2-ynyloxy-phenyl)-ethylamine | 9.8 mmol, 2.0 g | COC=1C=C(C=CC1OCC#C)CCN | C12H15NO2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | carbonate | 49 ml, pH=10.5 | C([O-])([O-])=O
product | N-benzoyloxy-2-(3-methoxy-4-prop-2-ynyloxy-phenyl)-ethylamine | C(C1=CC=CC=C1)(=O)ONCCC1=CC(=C(C=C1)OCC#C)OC | C19H19NO4
